US07960394B2
(4) Production of 3-amino-5-bromopyridine-2-carboxamide
5-Bromo-3-nitropyridine-2-carboxamide (400 mg, 1.63 mmol), ammonium chloride (435 mg, 8.15 mmol) and iron powder (273 mg, 4.89 mmol) were suspended in methanol (6 mL) and water (3 mL), and stirred at 100° C. for 20 hours. After cooled to room temperature, this was filtered through Celite, and the Celite was washed with methanol. The mother liquid was concentrated, and the residue was dissolved in chloroform and washed with water. The organic layer was concentrated under reduced pressure to obtain the intended compound (246 mg, 70%).

reactant | 5-Bromo-3-nitropyridine-2-carboxamide | 1.63 mmol, 400 mg | BrC=1C=C(C(=NC1)C(=O)N)[N+](=O)[O-] | C6H4BrN3O3
reactant | ammonium chloride | 8.15 mmol, 435 mg | [Cl-].[NH4+]
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
catalyst | iron | 4.89 mmol, 273 mg | [Fe] | Fe
product | 3-amino-5-bromopyridine-2-carboxamide | 246 mg, 70% | NC=1C(=NC=C(C1)Br)C(=O)N | C6H6BrN3O
